US04110447
A solution of 2.6 g of 1-chloro-3-p-biphenylylbutan-3-ol [m.p. 68° - 70°; obtainable by a Friedel-Crafts reaction of biphenyl with 3-chloropropionyl chloride to give 4-(3-chloropropionyl)-biphenyl and reaction with CH3MgI; or 3.05 g of 1-bromo-3-p-biphenylyl-butan-3-ol or 3.96 g of 1-p-toluenesulfonyloxy-3-p-biphenylyl-butan-3-ol] and 30g of methylamine in 100 ml of methanol is heated at 120° for 2 hours in an autoclave. After cooling and working up in the customary manner, 1-methylamino-3-p-biphenylyl-butan-3-ol is obtained.

reactant | 1-chloro-3-p-biphenylylbutan-3-ol | 2.6 g | ClCCC(C)(O)C1=C(C=CC=C1)C1=CC=CC=C1 | C16H17ClO
reactant | biphenyl | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
reactant | 3-chloropropionyl chloride | ClCCC(=O)Cl | C3H4Cl2O
reactant | 4-(3-chloropropionyl)-biphenyl | ClCCC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C15H13ClO
reactant | CH3MgI | C[Mg]I
reactant | 1-bromo-3-p-biphenylyl-butan-3-ol | 3.05 g | BrCCC(C)(O)C1=C(C=CC=C1)C1=CC=CC=C1 | C16H17BrO
reactant | 1-p-toluenesulfonyloxy-3-p-biphenylyl-butan-3-ol | 3.96 g | C1(=CC=C(C=C1)S(=O)(=O)OCCC(C)(O)C1=C(C=CC=C1)C1=CC=CC=C1)C | C23H24O4S
reactant | methylamine | CN | CH5N
solvent | methanol | 100 ml | CO | CH4O
product | 1-methylamino-3-p-biphenylyl-butan-3-ol | CNCCC(C)(O)C1=C(C=CC=C1)C1=CC=CC=C1 | C17H21NO
